US09388140B2
4-{6-(3-fluoro-4-methoxybenzoyl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoic acid
To a solution of 660 mg (1.25 mmol) methyl 4-{6-(3-fluoro-4-methoxybenzoyl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoate which was prepared according to intermediate example 101b in 25 mL tetrahydrofurane and 8 mL methanol were added 6.2 mL of a 1M aqueous lithium hydroxide solution and the mixture was stirred at 23° C. overnight. Water was added, the mixture was acidified by the addition of a 1M hydrochloric acid and extracted with dichloromethane and methanol. The organic layer was washed with brine and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 632 mg (98%) of the title compound.

reactant | methyl 4-{6-(3-fluoro-4-methoxybenzoyl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoate | 1.25 mmol, 660 mg | FC=1C=C(C(=O)C=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)OC)C=C3)C)C2)NCCC(F)(F)F)C=CC1OC | C27H23F4N3O4
reactant | methanol | 8 mL | CO | CH4O
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofurane | 25 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-{6-(3-fluoro-4-methoxybenzoyl)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-2-methylbenzoic acid | 632 mg, 98% | FC=1C=C(C(=O)C=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)O)C=C3)C)C2)NCCC(F)(F)F)C=CC1OC | C26H21F4N3O4
